US07893264B2
The 2-tert-butoxycarbonylamino-pentanedioic acid 1-benzyl ester (4.06 g, 12 mmol) and TEA (5 mL, 35.87 mmol) were dissolved in THF (60 mL) and cooled to 0° C. Ethylchloroformate (3.4 mL, 35.7 mmol) was added dropwise. The mixture was stirred at 0° C. for 5 minutes and warmed to r.t. for 1 h. NaBH4 (1.88 g, 49.7 mmol) was added followed by addition of 1 drop of H2O. The reaction mixture was stirred at r.t. overnight. 4 N HCl was added at 0° C. and extracted with EtOAc (100 mL). The aqueous layer was washed with H2O (100 mL), NaOH (2×100 mL), H2O (100 mL) and brine (100 mL). The organic layer was dried with Na2SO4, filtered, and concentrated. The crude product was purified by combi-flash to give 2.89 g of 2-tert-butoxycarbonylamino-5-hydroxy-pentanoic acid benzyl ester in 75% yield.

reactant | 2-tert-butoxycarbonylamino-pentanedioic acid 1-benzyl ester | 12 mmol, 4.06 g | C(C1=CC=CC=C1)OC(C(CCC(=O)O)NC(=O)OC(C)(C)C)=O | C17H23NO6
reactant | Ethylchloroformate | 35.7 mmol, 3.4 mL | C(C)OC(=O)Cl | C3H5ClO2
reactant | NaBH4 | 49.7 mmol, 1.88 g | [BH4-].[Na+]
reactant | HCl | 4 N | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | H2O | 1 drop | O | H2O
product | 2-tert-butoxycarbonylamino-5-hydroxy-pentanoic acid benzyl ester | 2.89 g, 75% yield | C(C1=CC=CC=C1)OC(C(CCCO)NC(=O)OC(C)(C)C)=O | C17H25NO5
